US04272546
Preparation of 4-chlorophenyl 4-(hexadecylamino)benzoate
To a solution of 6.4 g. (50 m moles) 4-chlorophenol and 7.6 g. (75 m moles) triethylamine in 500 ml. methylene chloride is added 10.4 g. (25 m moles) 4-(hexadecylamino)benzoyl chloride hydrochloride in 250 ml. methylene chloride. After four hours at reflux, the solution is cooled, washed with water and dilute phosphoric acid, and dried. After passing the solution through a column of alumina, the solvent is evaporated and the residue is crystallized from diisopropyl ether.

reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-(hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-chlorophenyl 4-(hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC2=CC=C(C=C2)Cl)C=C1 | C29H42ClNO2
